US07576074B2
To a suspension of 1,1-dimethylethyl 2-({[4-[(3,4-dichlorophenyl)amino]-6-(methoxy)quinazolin-7-yl]oxy}morpholine-4-carboxylate (4.77 g, 8.91 mmol) in methanol (50 mL) was added a 4M solution of HCl in 1,4-dioxane (50 mL), and the reaction mixture was refluxed for 5 min. After cooling to room temperature, diethyl ether (100 mL) was added and the precipitate was filtered and dried. The solid was dissolved in methanol (200 mL) and treated with Bio-Rad 1-X8 resin hydroxide form until pH 8. Filtration and concentration in vacuo provided 3.32 g (86%) of N-(3,4-dichlorophenyl)-6-(methyloxy)-7-[(morpholin-2-ylmethyl)oxy]quinazolin-4-amine as a brown solid. 1H NMR (400 MHz, d4-MeOH): 8.47 (s, 1H), 8.14 (d, 1H), 7.73 (m, 2H), 7.49 (d, 1H), 7.15 (s, 1H), 4.24-4.13 (m, 2H), 4.09-3.97 (m, 5H), 3.76 (m, 1H), 3.22 (dd, 1H), 3.02-2.90 (m, 3H); MS (EI) for C20H20N4O3Cl2: 435 (MH+).

reactant | {[4-[(3,4-dichlorophenyl)amino]-6-(methoxy)quinazolin-7-yl]oxy}morpholine-4-carboxylate | 8.91 mmol, 4.77 g | ClC=1C=C(C=CC1Cl)NC1=NC=NC2=CC(=C(C=C12)OC)OC1N(CCOC1)C(=O)[O-]
reactant | HCl | Cl | ClH
reactant | diethyl ether | 100 mL | C(C)OCC | C4H10O
solvent | methanol | 50 mL | CO | CH4O
solvent | 1,4-dioxane | 50 mL | O1CCOCC1 | C4H8O2
product | N-(3,4-dichlorophenyl)-6-(methyloxy)-7-[(morpholin-2-ylmethyl)oxy]quinazolin-4-amine | 3.32 g, 86% | ClC=1C=C(C=CC1Cl)NC1=NC=NC2=CC(=C(C=C12)OC)OCC1CNCCO1 | C20H20Cl2N4O3
